US03953500
To 40 ml. of pyridine is added 19.2 g. of methyl 1-hydroxyindan-4-carboxylate and, while the mixture is stirred at a temperature of not more than 10°C, 21 g. of p-toluenesulfonyl chloride is added in small installments. After the addition has been completed, the reaction mixture is allowed to stand at a temperature not exceeding 10°C for 6 hours. Then, following the addition of ice, the reaction mixture is extracted with ether. The extract is washed with water and dried. The solvent is then distilled off under reduced pressure and the resultant 4-carbomethoxy-1-indanyl p-toluenesulfonate is dissolved in 100 ml. of dimethylsulfoxide, followed by stirring. Then, 5.5 g. of sodium cyanide is added and the mixture is stirred at room temperature for 11 hours. Following the addition of 850 ml. of water, the reaction mixture is extracted with ether. The extract is washed with a saturated aqueous solution of sodium chloride and, then, dried. The solvent is distilled off under reduced pressure and the residue is purified by column chromatography on silica gel (600 g. silica gel; eluant: chloroform). The described procedure gives methyl 1-cyanoindan-4-carboxylate as crystals melting at 76°-77°C.

reactant | methyl 1-hydroxyindan-4-carboxylate | OC1CCC=2C(=CC=CC12)C(=O)OC | C11H12O3
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | methyl 1-cyanoindan-4-carboxylate | C(#N)C1CCC=2C(=CC=CC12)C(=O)OC | C12H11NO2
